Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Aspirin / Sulfasalazine / Lisinopril / Codeine / nitrofurantoin 
/ Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ w/ hx of HTN and IDDM who is
presenting here to the ED for a 1 day hx of RLQ abd pain. She
says she has never had these sx before. ROS is diffusely +ve,
including n/v, loose stools, ?melena, lightheadedness and/or
dizziness; ROS is o/w -ve except as noted above. Her labs show
WBC 7.7, and a CT A/P was obtained which showed a dilated
appendix to 1.3 cm diameter w/ surrounding fat stranding and
?phlegmon c/f appendicitis, for which we were consulted. 

 
Past Medical History:
DM2
HTN
Hyperlipidemia
Depression
Anxiety
Iron deficiency anemia
GERD
Chronic back pain
Insomnia
Tongue cancer, sees specialist at ___
H/o stomach ulcers
 
Social History:
___
Family History:
She had brother with lung CA, daughter with endometrial cancer

 
Physical Exam:
PHYSICAL EXAMINATION: upon admission:  ___:
 
Temp: 98.2 HR: 105 BP: 177/69 Resp: 24 O(2)Sat: 96 Normal
 
Constitutional: Patient is well-appearing and in no acute
distress
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Neck is supple
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nondistended, tender to palpation in the
left lower quadrant and suprapubic region with voluntary
guarding
Rectal: Heme Positive
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash, Warm and dry
Neuro: Speech fluent, moving all extremities
Psych: Normal mood, Normal mentation

Physical examination upon discharge:  ___:

vital signs:  t=98.5, hr=77, bp=131/61,rr=18, 95% room air

GENERAL:  NAD

CV:  ns1, s2, no murmurs
LUNGS:  coarse BS bil
ABDOMEN:  soft,  non-tender
EXT:  no pedal edema bil, no calf tenderness bil
NEURO:  alert and oriented x 3

 
Pertinent Results:
___ 05:18AM BLOOD WBC-10.3* RBC-4.04 Hgb-12.4 Hct-38.0 
MCV-94 MCH-30.7 MCHC-32.6 RDW-12.6 RDWSD-43.9 Plt ___
___ 04:20AM BLOOD WBC-11.9* RBC-3.97 Hgb-12.3 Hct-37.6 
MCV-95 MCH-31.0 MCHC-32.7 RDW-12.5 RDWSD-43.9 Plt ___
___ 06:50PM BLOOD WBC-7.7 RBC-4.58 Hgb-14.1 Hct-42.4 MCV-93 
MCH-30.8 MCHC-33.3 RDW-12.6 RDWSD-42.8 Plt ___
___ 06:50PM BLOOD Neuts-82.6* Lymphs-10.6* Monos-6.0 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-6.38* AbsLymp-0.82* 
AbsMono-0.46 AbsEos-0.03* AbsBaso-0.02
___ 05:18AM BLOOD Plt ___
___ 05:18AM BLOOD Glucose-181* UreaN-11 Creat-1.1 Na-142 
K-4.1 Cl-107 HCO3-19* AnGap-16
___ 04:20AM BLOOD Glucose-180* UreaN-10 Creat-1.1 Na-140 
K-3.7 Cl-104 HCO3-24 AnGap-12
___ 06:50PM BLOOD Glucose-328* UreaN-22* Creat-1.3* Na-137 
K-5.1 Cl-95* HCO3-24 AnGap-18
___ 06:50PM BLOOD ALT-28 AST-32 AlkPhos-104 TotBili-0.9
___ 05:18AM BLOOD Calcium-8.6 Phos-2.3* Mg-1.8
___ 06:26AM BLOOD %HbA1c-11.2* eAG-275*

___:  cat scan abd/pelvis:

Dilated appendix measuring 1.3 cm with significant surrounding 
fat stranding, compatible with acute appendicitis.  Of note, the 
appearance is slightly atypical given isolated involvement of 
the appendiceal base with the inflammation centered at the base 
of the cecum and appendix.  The mid to distal appendix and 
including the tip are all normal in appearance.  No 
evidence of perforation or abscess. 
  

 
Brief Hospital Course:
___ year old female admitted to the hospital with abdominal pain. 
 Upon admission, the patient was made NPO, given intravenous 
fluids, and underwent a cat scan which showed a dilated 
appendix.  The patient underwent serial abdominal examinations 
and placed on bowel rest. She was placed on a course of 
ciprofloxacin and flagyl. During the patient's hospitalization, 
she was noted to have elevated blood sugars.  The ___ 
Diabetes ___ was consulted for recommendations in blood 
sugar management.  

On HD #3, the patient's abdominal pain decreased and she was 
started on clear liquids and advanced to a regular diet. Her 
white blood cell count normalized.
The patient was discharged home with her family on HD#5.  Her 
vital signs were stable and she was afebrile.  She had return of 
bowel function and was voiding without difficulty.  The patient 
was instructed to complete a course of ciprofloxacin and flagyl. 
 Discharge instructions were reviewed and questions answered.  A 
follow-up appointment was made in the acute care clinic.  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Propranolol 20 mg PO BID 
2. Atorvastatin 40 mg PO QPM 
3. amLODIPine 10 mg PO DAILY 
4. Mirtazapine 15 mg PO QHS 
5. Omeprazole 40 mg PO DAILY 
6. PARoxetine 40 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO/NG Q12H Duration: 10 Days 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*12 Tablet Refills:*0 
2.  Glargine 25 Units Bedtime
Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
3.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*18 Tablet Refills:*0 
4.  amLODIPine 10 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Mirtazapine 15 mg PO QHS  
7.  Omeprazole 40 mg PO DAILY  
8.  PARoxetine 40 mg PO DAILY  
9.  Propranolol 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with lower abdominal pain and 
tarry stools.  You underwent cat scan imaging which showed acute 
appendicitis.  You were started on antibiotics and your white 
blood cell count was monitored.  During your hospital stay, you 
were noted to have elevation in your blood sugars and the ___ 
Diabetes was consulted and made adjustments in your diabetes 
medication.  Your vital signs have been stable and you are 
preparing for discharge with the following recommedations:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness, or abdominal pain

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

 
Followup Instructions:
___